US05610144
The operation is carried out in a fashion similar to that described in Example 41, but starting from 0.25 g of 2-trimethylsilylethyl (2S,5S)-3-{3-{2-[2-tert-butoxycarbonyl-5-(3-indolyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoate and 1.5 cm3 of a 1M solution of tetrabutylammonium fluoride. The crude product is dissolved in 25 cm3 of ethyl acetate and extracted with 2 times 10 cm3 of 0.1N aqueous sodium hydroxide solution. The aqueous phases are brought to a pH of 2 by addition of a 1N aqueous hydrochloric acid solution. The product precipitated is separated by filtration, washed with 2 times 5 cm3 of distilled water and dried in air. 0.09 g of (2S,5S)-3-{3-{2-[2-tert-butoxycarbonyl-5-(3-indolyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoic acid is thus obtained in the form of an amorphous product, [α]D20 =-42.9°±1.5° (C=0.503%; CH3OH), [proton NMR (300 MHz, DMSO D6, δ in ppm, J in Hz); 1.44 (s, 9H, --C(CH3)3 ; 1.7 to 2.4 (m, 4H, --CH2 --CH2 --); 3.59 and 3.99 (2dd, J=18 and 6, 2H, N--CO--CH2 --N); 4.55 (d, J=9 Hz, 1H, N--CH--COO--); 5.53 (d, J=8, 1H, N--CH--Ar); 6.3 (t, J=6.1 Hz, 1H, --NH--CO--); 6.9 to 7.6 (m, 7H, aromatic); 7.15 (bs, 1H, N--CH=); 7.94 (broad s, 1H, in position 2 on NH--Ph--COO); 8.95 (broad, 1H, Ph--NH--CO--); 11.02 (broad, 1H, --NH--), 12.75 (broad, 1H, COOH). Two NOE effects have been observed between N--CH= of indole and the protons in positions 2 and 5 of pyrrolidine], [infrared spectrum (KBr), characteristic bands in cm-1 : 3385, 2975, 2930, 2700 to 2250 (broad band), 1730, 1690, 1640, 1560, 1490, 1460, 1395, 1370, 1155, 740, 685].

reactant | 2-trimethylsilylethyl (2S,5S)-3-{3-{2-[2-tert-butoxycarbonyl-5-(3-indolyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoate | 0.25 g | C(C)(C)(C)OC(=O)[C@H]1N([C@@H](CC1)C1=CNC2=CC=CC=C12)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C32H42N4O6Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 25 cm3 | C(C)(=O)OCC | C4H8O2
product | (2S,5S)-3-{3-{2-[2-tert-butoxycarbonyl-5-(3-indolyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoic acid | 0.09 g | C(C)(C)(C)OC(=O)[C@H]1N([C@@H](CC1)C1=CNC2=CC=CC=C12)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C27H30N4O6
